US05438150
Lithium hydroxide monohydrate (7.8 g, 0.2 mol) was added to a solution of (S)-5,7-difluoro-2-[(trifluoroacetyl)amino]-1,2,3,4-tetrahydronaphthalene (20.8 g, 74.5 mmol), prepared as in Example 5, in 187 mL of methanol and 21 mL of water. The mixture was stirred at reflux for 30 minutes and diluted with 200 mL of methanol. The diluted mixture then was combined with 60 mL of water, 24.8 mL of concentrated hydrochloric acid and 4.2 g of activated carbon, Darco®. The mixture was stirred for 30 minutes and then filtered through celite. The filtrate was distilled until the head temperature reached 75° C. The remaining mixture was allowed to cool and let stand for approximately 60 hours. The mixture then was cooled in an ice bath giving a crystalline material. The material was isolated by filtration and the filter residue was washed with water. Drying to constant weight in vacuo at room temperature under a nitrogen stream gave (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine hydrochloride (14.8 g, 67.6 mol), m.p. >280° C. [α]D -66.2° (c=0.162, CH3OH).

reactant | Lithium hydroxide monohydrate | 0.2 mol, 7.8 g | O.[OH-].[Li+]
reactant | (S)-5,7-difluoro-2-[(trifluoroacetyl)amino]-1,2,3,4-tetrahydronaphthalene | 74.5 mmol, 20.8 g | FC1=C2CC[C@@H](CC2=CC(=C1)F)NC(C(F)(F)F)=O | C12H10F5NO
reactant | hydrochloric acid | 24.8 mL | Cl | ClH
reactant | Darco | C | CH4
solvent | methanol | 187 mL | CO | CH4O
solvent | water | 21 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine hydrochloride | 67.6 mol, 14.8 g | Cl.FC1=C2CC[C@@H](CC2=CC(=C1)F)N | InChI=1S/C10H11F2N.ClH/c11-7-3-6-4-8(13)1-2-9(6)10(12)5-7;/h3,5,8H,1-2,4,13H2;1H/t8-;/m0./s1
